US07871998B2
N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-3-cyclohexyl-D-alanine
N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine (30 mg, 0.0555 mmol) and N-methylmorpholine (30 mg, 0.296 mmol) were dissolved in DMF (0.5 ml). TBTU (23 mg, 0.0717 mmol) was added and the mixture was stirred for 15 min at room temperature. 3-Cyclohexyl-D-alanine (15 mg, 0.0876 mmol) was added and the stirring was continued overnight at room temperature. The solvent was evaporated under reduced pressure and the residue was dissolved in methanol (1 ml). NaBH4 (10 mg, 0.264 mmol) was added and the mixture was stirred for 10 min at room temperature. Three drops of acetic acid was added to the reaction mixture. The product was isolated by preparative HPLC using acetonitrile/ammonium acetate buffer (40:60) as eluent. After freeze-drying 19 mg (49%) of the title compound was obtained. 1H-NMR, 300 MHz, DMSO): 0.68-0.93 (m, 2H), 1.0-1.75 (m, 1H), 2.78-3.00 (m, 2H), 3.73 (s, 2H), 4.00-4.14 (m, 1H), 4.23-4.35 (m, 1H), 4.51 (s, 2H), 4.65-4.78 (m, 1H), 4.99-5.09 (m, 1H), 6.90-7.44 (m, 12H), 7.72-7.86 (m, 1H), 8.26 (t, 1H).

reactant | N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine | 0.0555 mmol, 30 mg | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(=O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)NCC(=O)O)C=C1 | C27H22F2N2O6S
reactant | N-methylmorpholine | 0.296 mmol, 30 mg | CN1CCOCC1 | C5H11NO
reactant | TBTU | 0.0717 mmol, 23 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 3-Cyclohexyl-D-alanine | 0.0876 mmol, 15 mg | C1(CCCCC1)C[C@@H](N)C(=O)O | C9H17NO2
reactant | NaBH4 | 0.264 mmol, 10 mg | [BH4-].[Na+]
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
catalyst | acetic acid | Three drops | C(C)(=O)O | C2H4O2
solvent | acetonitrile ammonium acetate | C(C)#N.C(C)(=O)[O-].[NH4+]
solvent | DMSO | CS(=O)C | C2H6OS
product | N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-3-cyclohexyl-D-alanine | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)NCC(=O)N[C@H](CC2CCCCC2)C(=O)O)C=C1 | C36H39F2N3O7S
